US05633248
(1) Ethyl 2-[(N-benzyloxycarbonyl-N-methylamino)acetylamino]-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalene-2-carboxylate
To a solution of ethyl 2-amino-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalene-2-carboxylate (430 mg, 1.5 mmol), N-benzyloxycarbonylsarcosine (357 mg, 1.6 mmol), and 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride in dichloromethane (5 ml) was added triethylamine (160 mg, 1.6 mmol) under stirring at 0° C. After stirring for 2 hr, the reaction mixture was concentrated in vacuo and the residue was dissolved in ethyl acetate. The solution was washed with 1N hydrochloric acid, sat. sodium bicarbonate, sat. sodium chloride, dried, and evaporated. The residue was purified with silica gel column chromatography [eluent; hexane-ethyl acetate (1:1 to 1:2)] to give the titled compound (550 mg, 74%).

reactant | ethyl 2-amino-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalene-2-carboxylate | 1.5 mmol, 430 mg | NC1(CC2=CC(=C(C=C2CC1)OC)OC)C(=O)OCC | C15H21NO4
reactant | N-benzyloxycarbonylsarcosine | 1.6 mmol, 357 mg | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)O | C11H13NO4
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 1.6 mmol, 160 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Ethyl 2-[(N-benzyloxycarbonyl-N-methylamino)acetylamino]-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalene-2-carboxylate | 550 mg, 74% | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)NC1(CC2=CC(=C(C=C2CC1)OC)OC)C(=O)OCC | C26H32N2O7
